US06251911B1
Starting with a suspension of 75.8 g (216 mmol) of 3-benzylamino-4-(3-chlorophenylamino)-1H-pyrazolo[3,4-d]pyrimidine in 1.5 liters of benzene, some of the solvent is distilled off for the purpose of removing residual water. Then, with the exclusion of moisture, the suspension is added to 84 g of aluminium chloride (Fluka, Buchs/Switzerland) in 500 ml of benzene and heated at 80° C. for 2.5 hours. The reaction mixture is cooled to RT, the supernatant benzene phase is poured into 2 kg of ice-water (leaving behind a green oily residue), and the solid that separates out is filtered off with suction and washed thoroughly with water (→K1). Using a rotary evaporator, the benzene is evaporated off from the filtrate and the aqueous phase that remains behind is added to the green oily residue together with 1 kg of ice and hydrolyzed at 40° C. for 2 hours. The crystalline product is filtered off with suction and washed with water (K2). K1 and K2 are taken up in 1 liter of methanol, acidified with 4N aqueous HCl and partially concentrated by evaporation. Water is added and the methanol is evaporated off completely. The crystals are filtered off and washed with water. The same purification procedure is repeated using semi-saturated Na2CO3 solution/methanol and water/methanol. Stirring at 50° C. in methanol, precipitation with diethyl ether, filtration and drying yield 3-amino-4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine; m.p. 232-234° C.; TLC: Rf=0.50 (ethyl acetate).

reactant | 3-benzylamino-4-(3-chlorophenylamino)-1H-pyrazolo[3,4-d]pyrimidine | 216 mmol, 75.8 g | C(C1=CC=CC=C1)NC1=NNC2=NC=NC(=C21)NC2=CC(=CC=C2)Cl | C18H15ClN6
solvent | benzene | 1.5 liters | C1=CC=CC=C1 | C6H6
product | 3-amino-4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine | NC1=NNC2=NC=NC(=C21)NC2=CC(=CC=C2)Cl | C11H9ClN6
